US08629137B2
7-methoxy-3-{1-[6-(2-oxo-2,3-dihydro-1H-indol-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
99 mg (0.40 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one, 98 mg (0.40 mmol) 5-(6-chloro-pyrimidine-4-carbonyl)-1,3-dihydro-indol-2-one and 0.070 mL (0.40 mmol) DIPEA were combined in 2 mL DMF and shaken overnight at RT. The mixture was diluted with acetonitrile/water and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.40 mmol, 99 mg | COC1=CC2=C(NC(N(CC2)C2CCNCC2)=O)C=C1 | C15H21N3O2
reactant | 5-(6-chloro-pyrimidine-4-carbonyl)-1,3-dihydro-indol-2-one | 0.40 mmol, 98 mg | ClC1=CC(=NC=N1)C(=O)C=1C=C2CC(NC2=CC1)=O | C13H8ClN3O2
reactant | DIPEA | 0.40 mmol, 0.070 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile water | C(C)#N.O
product | 7-methoxy-3-{1-[6-(2-oxo-2,3-dihydro-1H-indol-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C2=NC=NC(=C2)C(=O)C=2C=C3CC(NC3=CC2)=O)=O)C=C1 | C28H28N6O4
